US07893056B2
[(2R)-3-{2-[6-Chloro-5-fluoro-2-(methyloxy)-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide (0.150 g, 0.31 mmol), commercially available 1-ethylpiperazine (0.080 mL, 0.63 mmol) and diisopropylethylamine (0.054 mL, 0.31 mmol) were stirred in DMSO (2 mL) overnight at 65° C. The reaction mixture was then purified by RP-HPLC to provide ((2R)-2-(cyclopentylmethyl)-3-{2-[6-(4-ethyl-1-piperazinyl)-5-fluoro-2-(methyloxy)-4-pyrimidinyl]hydrazino}-3-oxopropyl)[(phenylmethyl)oxy]formamide as a red solid (0.145 g, 83%). LCMS: (M+H)+=558.3.

reactant | [(2R)-3-{2-[6-Chloro-5-fluoro-2-(methyloxy)-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide | 0.31 mmol, 0.150 g | ClC1=C(C(=NC(=N1)OC)NNC([C@@H](CN(C=O)OCC1=CC=CC=C1)CC1CCCC1)=O)F | C22H27ClFN5O4
reactant | 1-ethylpiperazine | 0.63 mmol, 0.080 mL | C(C)N1CCNCC1 | C6H14N2
reactant | diisopropylethylamine | 0.31 mmol, 0.054 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | ((2R)-2-(cyclopentylmethyl)-3-{2-[6-(4-ethyl-1-piperazinyl)-5-fluoro-2-(methyloxy)-4-pyrimidinyl]hydrazino}-3-oxopropyl)[(phenylmethyl)oxy]formamide | 0.145 g, 83% | C1(CCCC1)C[C@H](CN(C=O)OCC1=CC=CC=C1)C(=O)NNC1=NC(=NC(=C1F)N1CCN(CC1)CC)OC | C28H40FN7O4
